US06001981
3,4-Di-O-ethyl-6-deoxy-L-glucal
Ethyl iodide (32 mL, 0.40 mol), 3,4-di-O-acetyl-6-deoxy-L-glucal (4.28 g, 0.20 mol), 50% aqueous NaOH (43 mL, 0.81 mol) and DMSO (11.4 mL, 0.16 mol) were added sequentially to a 300-mL round-bottom, three-neck flask equipped with an overhead stirrer. Stirring was begun and tetrabutylammonium hydrogen sulfate (2.04 g, 0.006 mol) added in a single portion. Stirring was continued for 66 h. The mixture was partitioned between water and Et2O. The aqueous layer was extracted twice with Et2O (20 mL) and a final time with 1:1 Et2O-CH2Cl2 (20 mL). The organic layers were combined, washed successively with water, dilute aqueous sodium thiosulfate, water and brine and dried over sodium sulfate and potassium carbonate and concentrated under reduced pressure. A white solid precipitated during evaporation. The mixture was diluted with pentane and the solid removed by filtration. The solvent was removed from the filtrate under reduced pressure to yield a pale yellow oil (3.2 g, 87%) which was sufficiently homogeneous to use in subsequent reactions without additional purification. 1H NMR d 6.32 (dd, J=6.1, 0.6, 1 H), 4.78 (dd, J=6.1, 1.2, 1 H), 1.36 (d, J=6.4, 3 H), 1.22 (t, J=7.0, 6 H).

reactant | Ethyl iodide | 0.40 mol, 32 mL | C(C)I | C2H5I
reactant | 3,4-di-O-acetyl-6-deoxy-L-glucal | 0.20 mol, 4.28 g | C(C)(=O)O[C@H]1C=CO[C@H]([C@@H]1OC(C)=O)C | C10H14O5
reactant | NaOH | 0.81 mol, 43 mL | [OH-].[Na+]
reactant | DMSO | 0.16 mol, 11.4 mL | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium hydrogen sulfate | 0.006 mol, 2.04 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3,4-Di-O-ethyl-6-deoxy-L-glucal | 3.2 g, 87% | C(C)O[C@H]1C=CO[C@H]([C@@H]1OCC)C | C10H18O3
